US09062045B2
2,3-difluoro-5-(1H-pyrazol-4-yl)pyridine (D.i)
5-bromo-2,3-difluoropyridine (2.0 g, 10.31 mmol), tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (3.03 g, 10.31 mmol), Na2CO3 (2.186 g, 20.62 mmol) and Pd(Ph3P)4 (1.191 g, 1.031 mmol) were dissolved in dioxane (20 ml). The mixture was bubbled with Ar for 10 min. The reaction was stirred at 100° C. for overnight, cooled and concentrated under reduced pressure. The residue was purified by silica gel chromatography (DCM/MeOH=30/1) to afford the title compound as white solid (1.0 g, 53.5% yield). LCMS (method B): [M+H]+=182, tR=1.98 min.

reactant | 5-bromo-2,3-difluoropyridine | 10.31 mmol, 2.0 g | BrC=1C=C(C(=NC1)F)F | C5H2BrF2N
reactant | tert-butyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 10.31 mmol, 3.03 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C(=O)OC(C)(C)C)C | C14H23BN2O4
reactant | Na2CO3 | 20.62 mmol, 2.186 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 1.031 mmol, 1.191 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,3-difluoro-5-(1H-pyrazol-4-yl)pyridine | 1.0 g, 53.5% yield | FC1=NC=C(C=C1F)C=1C=NNC1 | C8H5F2N3
